*$
* TPS259482 Behavioral Model (Simplified)
*****************************************************************************
* This is a simplified behavioral model for system-level simulation.
* NOT a TI-provided model.
*
* Modeled behaviors:
*   - EN/UVLO comparator with 1.2V rising threshold
*   - OVLO comparator with 1.2V rising threshold
*   - On-resistance (12.2mΩ typ) between IN and OUT
*   - Soft-start slew rate controlled by external C_DVDT
*   - ILM current monitor output (133µA/A gain)
*   - SPLYGD open-drain supply-good output
*
* NOT modeled:
*   - Active current limiting / fast-trip
*   - ITIMER blanking behavior
*   - Reverse current blocking / ideal diode
*   - RCBCTRL bi-directional mode control
*   - Thermal shutdown
*   - Foldback current limit
*
* Pin order: IN OUT GND EN_UVLO OVLO RCBCTRL SPLYGD DVDT ILM ITIMER
*****************************************************************************

.SUBCKT TPS259482_BEHAV IN OUT GND EN_UVLO OVLO RCBCTRL SPLYGD DVDT ILM ITIMER

* --- EN/UVLO comparator (1.2V rising threshold, ~100mV hysteresis) ---
* Output: 0 or 1 on internal node
B_en  en_ok GND V = { V(EN_UVLO, GND) > 1.2 ? 1 : 0 }

* --- OVLO comparator (1.2V rising threshold — above = OV fault) ---
B_ovlo  ovlo_ok GND V = { V(OVLO, GND) < 1.2 ? 1 : 0 }

* --- Combined enable ---
B_ctrl  ctrl GND V = { V(en_ok, GND) * V(ovlo_ok, GND) }

* --- DVDT charging current (5µA typ into external cap) ---
* The voltage on DVDT node ramps up at rate I/C = 5µA/C_DVDT
* When ctrl goes low, discharge DVDT quickly
B_idvdt  DVDT GND I = { V(ctrl, GND) > 0.5 ? -5u : V(DVDT, GND) / 100 }

* --- Gate drive ramp (DVDT voltage controls output ramp) ---
* Output tracks MIN(VIN, VDVDT_scaled)
* DVDT ramp: SR(V/ms) = 5000/C_DVDT(pF), so VOUT ramps at I_DVDT/C_DVDT × VIN
* Simplified: use DVDT voltage directly as a fractional gate signal
B_gate  gate GND V = { V(ctrl, GND) > 0.5 ? min(V(DVDT, GND) * 5, 5) : 0 }

* --- Power FET: voltage-controlled switch with Ron ---
S_main  IN OUT gate GND SWMOD
.MODEL SWMOD SW RON=12.2m ROFF=100MEG VT=2.5 VH=0.1

* --- ILM current monitor (133µA/A gain, typ) ---
* B-source sensing current through S_main
B_ilm  ILM GND I = { -133u * abs(I(S_main)) }

* --- SPLYGD open-drain output ---
* Asserted (high-Z) when enabled and start-up complete (gate > 4V)
* De-asserted (pulled low via ~50Ω) otherwise
R_splygd_pullup  SPLYGD GND 100MEG
S_splygd  SPLYGD GND splygd_ctrl GND SWOD
B_splygd  splygd_ctrl GND V = { (V(gate, GND) > 4) ? 0 : 5 }
.MODEL SWOD SW RON=50 ROFF=100MEG VT=2.5 VH=0.1

* --- ITIMER: just a node for the external cap (no active behavior) ---
R_itimer_bias ITIMER GND 100MEG

* --- RCBCTRL: input only (no active behavior in simplified model) ---
R_rcbctrl_bias RCBCTRL GND 100MEG

.ENDS TPS259482_BEHAV
